US05776983
A solution of 4-cyanomethylbenzoic acid (10.0 g, 62.2 mmol) in thionyl chloride (65 mL) containing DMF (1 mL) was refluxed for three hours, cooled, concentrated, dissolved in hot EtOAc, treated with activated charcoal, filtered through Celite, and concentrated to yield 4-cyanomethylbenzoyl chloride. 4-Cyanomethylbenzoyl chloride was converted to the title compound following the procedure described in step A of Example 82 with the following modifications: 1) 1-(4-cyanomethylphenyl)-2-phenylethanone was chromatographed on silica gel using 2:3 EtOAc/hexane; 2) purification of N-[1-(4-cyanomethylphenyl)-2-phenylethyl]formamide entailed treatment with activated charcoal in EtOAc followed by recrystallization from EtOAc/hexane; and 3) the title compound was chromatographed on silica gel eluting with 10% acetone/EtOAc.

reactant | 4-cyanomethylbenzoic acid | 62.2 mmol, 10.0 g | C(#N)CC1=CC=C(C(=O)O)C=C1 | C9H7NO2
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 65 mL | S(=O)(Cl)Cl | Cl2OS
product | 4-cyanomethylbenzoyl chloride | C(#N)CC1=CC=C(C(=O)Cl)C=C1 | C9H6ClNO
